US05719278
N-[4-[(4,5-Dihydropyrazolo[3,4-d]pyrido[3,2-b]azepin-6(1H)-yl)carbonyl]phenyl][1,1'-biphenyl]-2-carboxamide
A mixture of 0.23 g of 6-(4-aminobenzoyl)-1,4,5,6-tetrahydropyrazolo[3,4-d]pyrido[3,2-b]azepine, 0.375 g of 4-[1,1'-biphenyl]carbonyl chloride and 0.224 g of N,N-diisopropylethylamine in 5 ml of dichloromethane and 1 ml of tetrahydrofuran is stirred at room temperature for 6 hours. The solvent is removed and the residue dissolved in 80 ml of chloroform. The solution is washed 2 times each with 1N NaHCO3, H2O, brine and dried (Na2SO4). The solution is filtered through a thin pad of hydrous magnesium silicate and the filter pad washed with ethyl acetate. The filtrate is concentrated to dryness under vacuum. To the residue (0.64 g) in 6 ml of methanol-tetrahydrofuran (1:1) is added 2.0 mmol of 1M NaOH and the mixture stirred at room temperature for 2 hours. To the mixture is added 10 ml of tetrahydrofuran-methanol (1:1) and the mixture stirred for 2 hours. The volatiles are removed under vacuum, H2O added and the mixture acidified with acetic acid. The mixture is extracted with dichloromethane and the extract washed with H2O, brine and dried (Na2SO4). The solvent is removed and the residue heated with hexane (700 ml) and filtered. The insoluble solid is crystallized from CH2Cl2 -hexane to give 0.25 g of white crystals, mp 250°-251° C.

reactant | 6-(4-aminobenzoyl)-1,4,5,6-tetrahydropyrazolo[3,4-d]pyrido[3,2-b]azepine | 0.23 g | NC1=CC=C(C(=O)N2C3=C(C4=C(CC2)C=NN4)N=CC=C3)C=C1 | C17H15N5O
reactant | 4-[1,1'-biphenyl]carbonyl chloride | 0.375 g | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | N,N-diisopropylethylamine | 0.224 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaOH | 2.0 mmol, 1M | [OH-].[Na+]
reactant | tetrahydrofuran-methanol | 10 ml | O1C(CCC1)CO | C5H10O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | methanol tetrahydrofuran | 6 ml | CO.O1CCCC1
product | N-[4-[(4,5-Dihydropyrazolo[3,4-d]pyrido[3,2-b]azepin-6(1H)-yl)carbonyl]phenyl][1,1'-biphenyl]-2-carboxamide | 0.25 g | N1N=CC2=C1C1=C(N(CC2)C(=O)C2=CC=C(C=C2)NC(=O)C=2C(=CC=CC2)C2=CC=CC=C2)C=CC=N1 | C30H23N5O2
